US08119676B2
(6-Iodo-2-oxo-2,3-dihydrobenzimidazol-1-yl)phenylacetic acid (VIIIb)
1.50 g (2.73 mmol) of tert-butyl 3-(tert-butoxycarbonylphenylmethyl)-5-iodo-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (XIIb) were dissolved in dichloromethane (16 ml) and, while stirring at room temperature, trifluoroacetic acid (10 ml) was added. The reaction solution was stirred for 2 h and then the solvent and excess trifluoroacetic acid were removed in vacuo. The residue was taken up again in toluene, concentrated in vacuo and then dried in vacuo. Yield: 1.10 g (100%) of yellow solid.

reactant | tert-butyl 3-(tert-butoxycarbonylphenylmethyl)-5-iodo-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate | 2.73 mmol, 1.50 g | C(C)(C)(C)OC(=O)C(N1C(N(C2=C1C=C(C=C2)I)C(=O)OC(C)(C)C)=O)C2=CC=CC=C2 | C24H27IN2O5
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | (6-Iodo-2-oxo-2,3-dihydrobenzimidazol-1-yl)phenylacetic acid | IC=1C=CC2=C(N(C(N2)=O)C(C(=O)O)C2=CC=CC=C2)C1 | C15H11IN2O3
